US04281121
5-methylsulfonyl-1,3,4-thiadiazole-2-carbonitrile
A mixture of 20 ml titanium tetrachloride in 50 ml carbon tetrachloride was added dropwise at 0° to 5° C. upon stirring to 350 ml tetrahydrofuran. Subsequently, 2-methylsulfonyl-1,3,4-thiadiazole-2-carboxamide was added in batches at room temperature in an amount of 20.7 g. After continued stirring for 1 hour a solution of 50 ml triethylamine in 50 ml tetrahydrofuran was dropped into the mixture within a period of 60 minutes. The mixture was then reacted with 50 ml water, the total mixture was extracted with chloroform and the organic phase was dried over magnesium sulfate and the solvent was distilled off in a vacuum. The residue was taken up in acetic acid ethylester, subjected to boiling with activated carbon, filtered and concentrated. The residue was crystallized from chloroform/tetrahydrofuran (3:1).

reactant | 2-methylsulfonyl-1,3,4-thiadiazole-2-carboxamide | CS(=O)(=O)C1(SC=NN1)C(=O)N | C4H7N3O3S2
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | titanium tetrachloride | 20 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 5-methylsulfonyl-1,3,4-thiadiazole-2-carbonitrile | CS(=O)(=O)C1=NN=C(S1)C#N | C4H3N3O2S2
